US05442064
4-Carboxy-1-(5-cyanopyrid-2-yl)-piperidine
A suspension of 1.8 g of 6-bromonicotinic acid nitrile, 1.3 g of 4-piperidinylcarboxylic acid and 1.06 g of sodium carbonate in 15 ml of dimethylformamide is stirred for 2 hours at 120° C. After cooling, the suspension is diluted with water. 2.0 g of ammonium chloride are added and the aqueous phase is extracted with ethyl acetate. The organic phase is washed with saturated saline solution, dried over sodium sulphate and the solvent is removed under reduced pressure. Yield: 1.2 g (52% of theory), Rf value: 0.29 (silica gel; methylene chloride/methanol/conc. ammonia=4:1:0.25)

reactant | 4-piperidinylcarboxylic acid | 1.3 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | sodium carbonate | 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | 2.0 g | [Cl-].[NH4+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Carboxy-1-(5-cyanopyrid-2-yl)-piperidine | C(=O)(O)C1CCN(CC1)C1=NC=C(C=C1)C#N | C12H13N3O2
